US07659294B2
Step B: 4-(1,4-Dioxaspiro[4.5]dec-7-en-8-yl)benzoic acid
To a solution of 4-carboxyphenylboronic acid (0.69 g, 3.53 mmol) and 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate (1.02 g, 3.53 mmol) in 14 mL of DMF were added 7 mL of 2 N aqueous solution of Na2CO3, triphenylphosphine (159 mg, 0.61 mmol), and tris(dibenzylideneacetone)dipalladium(0) (68 mg, 74.2 μmol). After stirring at 80° C. for 3 h and then at rt for 16 h, the mixture was concentrated and partitioned between 100 mL of Et2O and 150 mL of H2O. The aqueous layer was separated and acidified to pH ˜2-3 using concentrated HCl, and extracted with CH2Cl2 (2×100 mL). The organic layers were combined, dried over Na2SO4, and concentrated. The residue was re-crystallized from 10 mL of EtOAc to give 353 mg (38%) of the title compound.

reactant | 4-carboxyphenylboronic acid | 3.53 mmol, 0.69 g | C(=O)(O)C1=CC=C(C=C1)B(O)O | C7H7BO4
reactant | 1,4-dioxaspiro[4.5]dec-7-en-8-yl trifluoromethanesulfonate | 3.53 mmol, 1.02 g | FC(S(=O)(=O)OC1=CCC2(OCCO2)CC1)(F)F | C9H11F3O5S
reactant | Na2CO3 | C(=O)([O-])[O-].[Na+].[Na+]
reactant | triphenylphosphine | 0.61 mmol, 159 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | DMF | 14 mL | CN(C)C=O | C3H7NO
catalyst | tris(dibenzylideneacetone)dipalladium(0) | 74.2 μmol, 68 mg | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 4-(1,4-Dioxaspiro[4.5]dec-7-en-8-yl)benzoic acid | 353 mg, 38% | O1CCOC12CC=C(CC2)C2=CC=C(C(=O)O)C=C2 | C15H16O4
